US09260416B2
Step 2: 5-[6-Chloro-2-methyl-1-(1-methyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-nicotinic acid
5-[6-Chloro-2-methyl-1-(1-methyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-nicotinic acid methyl ester (from the previous step) was dissolved in THF:MeOH (1:1, 4 mL) and LiOH (1 M aq., 2 mL) was added. After 15 minutes the reaction mixture was concentrated to dryness then purified via preparatory HPLC (10-100% ACN in H2O, 15 minute run, r.t.=8.21 minutes) to provide the desired product. Mass spectrometric data: [M−H]=397.

reactant | 5-[6-Chloro-2-methyl-1-(1-methyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-nicotinic acid methyl ester | COC(C1=CN=CC(=C1)SC1=C(N(C2=CC(=CC=C12)Cl)C=1C=NN(C1)C)C)=O | C20H17ClN4O2S
reactant | LiOH | 1 M, 2 mL | [Li+].[OH-]
solvent | THF MeOH | 4 mL | C1CCOC1.CO
product | 5-[6-Chloro-2-methyl-1-(1-methyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-nicotinic acid | ClC1=CC=C2C(=C(N(C2=C1)C=1C=NN(C1)C)C)SC=1C=NC=C(C(=O)O)C1 | C19H15ClN4O2S
